US09302989B2
N-(1′-benzoyl-1′,2′,3′,6′-tetrahydro-2,4′-bipyridin-5-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-(6-(1,2,3,6-tetrahydropyridin-4-yl)pyridin-3-yl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.71 (d, J=2.5 Hz, 1H), 8.61 (s, 1H), 8.01 (dd, J=8.6, 2.2 Hz, 1H), 7.42-7.54 (m, 6H), 7.35-7.39 (m, 2H), 7.29-7.35 (m, 2H), 6.46-6.67 (m, 1H), 4.79 (s, 4H), 4.05-4.32 (m, 2H), 3.77-3.94 (m, 1H), 3.47-3.58 (m, 1H), 2.61-2.65 (m, 2H); MS (ESI(+)) m/e 425 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(6-(1,2,3,6-tetrahydropyridin-4-yl)pyridin-3-yl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=N1)NC(=O)N1CC2=CC=CC=C2C1 | C19H20N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-(1′-benzoyl-1′,2′,3′,6′-tetrahydro-2,4′-bipyridin-5-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CCC(=CC1)C1=NC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C26H24N4O2
